US07718645B2
Methyl[trans-4-[4-[[(trifluoromethyl)sulfonyl]oxy]phenyl]cyclohexyl]acetate, shown above, which is identified as Compound 55 in U.S. Pat. No. 7,244,727, issued Jul. 17, 2007, was prepared according to the method described therein. A mixture of methyl[trans-4-[4-[[(trifluoromethyl)-sulfonyl]oxy]phenyl]cyclohexyl]acetate (10.1 g, 26.6 mmol), 2-{[tert-butyl (dimethyl)silyl]oxy}ethanamine (5.59 g, 31.9 mmol), which can be prepared by various methods including those disclosed in Journal of the American Chemical Society, 129(37), 11408-11420; 2007, Organic Letters, 9(1), 101-104; 2007 or Bioorganic & Medicinal Chemistry, 13(11), 3821-3839; 2005, cesium carbonate (8.65 g, 26.6 mmol), palladium acetate (0.60 g, 2.66 mmol) and X-PHOS (1.27 g, 2.66 mmol) in toluene (53 mL) under nitrogen was heated in a sealed tube at 120° C. for 16 hours. The reaction was cooled, diluted into EtOAc, washed with water (2×), saturated aqueous brine, dried over sodium sulfate and concentrated to afford a dark oil. Chromatography (330 g Biotage Snap Cartridge® silica gel column, 0-15% EtOAc:heptane) afforded methyl(trans-4-{4-[(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-amino]phenyl}cyclohexyl)acetate as a light-yellow oil, 6.70 g. 1H NMR (400 MHz, CDCl3): δ 7.02, (d, 2H), 6.61 (d, 2H), 3.80 (m, 2H), 3.64 (s, 3H), 3.20 (m, 2H), 2.37 (m, 1H), 2.24 (m, 2H), 1.85 (m, 5H), 1.44 (m, 2H), 1.13 (m, 2H), 0.87 (s, 9H), 0.04 (s, 6H). m/z=406.4 (M+1).

reactant | Methyl[trans-4-[4-[[(trifluoromethyl)sulfonyl]oxy]phenyl]cyclohexyl]acetate | COC(C[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C16H19F3O5S
reactant | methyl[trans-4-[4-[[(trifluoromethyl)-sulfonyl]oxy]phenyl]cyclohexyl]acetate | 26.6 mmol, 10.1 g | COC(C[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C16H19F3O5S
reactant | 2-{[tert-butyl (dimethyl)silyl]oxy}ethanamine | 31.9 mmol, 5.59 g | C(C)(C)(C)[Si](OCCN)(C)C | C8H21NOSi
reactant | cesium carbonate | 26.6 mmol, 8.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | X-PHOS | 2.66 mmol, 1.27 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 53 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 2.66 mmol, 0.60 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | heptane | CCCCCCC | C7H16
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl(trans-4-{4-[(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-amino]phenyl}cyclohexyl)acetate | COC(C[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)NCCO[Si](C)(C)C(C)(C)C)=O | C23H39NO3Si
